US08404681B2
8-Hydroxy-6-morpholin-4-yl-9-oxo-9,10-dihydro-acridine-3-carboxylic acid 2-dimethylaminoethyl ester
8-Hydroxy-6-morpholin-4-yl-9-oxo-9,10-dihydro-acridine-3-carboxylic acid hexyl ester in. N,N-dimethylethanolamine (2 mL) was heated at 13.0° C. in sealed tube for 12 hours. Hexane (5 mL) was added, and a dark solid formed. The suspension was filtered and the remaining solid triturated with acetone. All residues were dissolved in MeOH and concentrated. The concentrate was purified via flash chromatography (CH2Cl2 to MeOH/CH2Cl2, 5:95) to yield an orange solid (10 mg, 27%). 1H NMR (CDCl3, 400 MHz) δ: 13.82 (s, 1H), 11.84 (s, 1H), 8.19 (d, 1H), 8.04 (s, 1H), 7.66 (d, 1H), 6.24 (s, 1H), 6.16 (s, 1H), 4.41 (t, 2H), 3.74-3.64 (m, 4H), 3.33-3.22 (m, 4H), 2.64 (t, 2H), 2.48 (s, 6H) LRMS (APCI, positive): Da/e 412.1 (m+1).

reactant | 8-Hydroxy-6-morpholin-4-yl-9-oxo-9,10-dihydro-acridine-3-carboxylic acid hexyl ester | C(CCCCC)OC(=O)C=1C=CC=2C(C3=C(C=C(C=C3NC2C1)N1CCOCC1)O)=O | C24H28N2O5
reactant | N,N-dimethylethanolamine | 2 mL | CN(CCO)C | C4H11NO
solvent | Hexane | 5 mL | CCCCCC | C6H14
product | 8-Hydroxy-6-morpholin-4-yl-9-oxo-9,10-dihydro-acridine-3-carboxylic acid 2-dimethylaminoethyl ester | 10 mg, 27% | CN(CCOC(=O)C=1C=CC=2C(C3=C(C=C(C=C3NC2C1)N1CCOCC1)O)=O)C | C22H25N3O5
